US05677464
1-[(1R,2S)-2-(2,4-Difluorophenyl)-2,3-dihydroxy-1-methylpropyl]-3-[4-(1,1,2,2-tetrafluoroethoxy)phenyl]-2(1H,3H)-imidazolone (0.5 g) was dissolved in 20 ml of ethyl acetate, to which 0.12 ml of methanesulfonyl chloride and 0.22 ml of triethylamine were added dropwise with ice cooling. After stirring at 0° C. for 30 minutes, the reaction solution was washed with water (10 ml×2) and 10 ml of an aqueous solution of sodium chloride successively. The organic layer was dried over magnesium sulfate. After the solvent was distilled off under reduced pressure, the residue was purified by silica gel chromatography (silica gel: 50 g, eluent; hexane:ethyl acetate=1:1). The desired fraction was concentrated to give 0.58 g of 1-[(1R,2S)-2-(2,4-difluorophenyl)-2-hydroxy-3-methanesulfonyloxy-1-methylpropyl]-3-[4-(1,1,2,2-tetrafluoroethoxy)phenyl]-2(1H,3H)-imidazolone as a colorless oil.

reactant | 1-[(1R,2S)-2-(2,4-Difluorophenyl)-2,3-dihydroxy-1-methylpropyl]-3-[4-(1,1,2,2-tetrafluoroethoxy)phenyl]-2(1H,3H)-imidazolone | 0.5 g | FC1=C(C=CC(=C1)F)[C@]([C@@H](C)N1C(N(C=C1)C1=CC=C(C=C1)OC(C(F)F)(F)F)=O)(CO)O | C21H18F6N2O4
reactant | methanesulfonyl chloride | 0.12 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 0.22 ml | C(C)N(CC)CC | C6H15N
product | 1-[(1R,2S)-2-(2,4-difluorophenyl)-2-hydroxy-3-methanesulfonyloxy-1-methylpropyl]-3-[4-(1,1,2,2-tetrafluoroethoxy)phenyl]-2(1H,3H)-imidazolone | 0.58 g | FC1=C(C=CC(=C1)F)[C@]([C@@H](C)N1C(N(C=C1)C1=CC=C(C=C1)OC(C(F)F)(F)F)=O)(COS(=O)(=O)C)O | C22H20F6N2O6S
